US05587504
Toluene (20 ml) was added to 2.0 g (4.3 mmol) of 2-(2'-cyanobiphenyl-4-yl)methylamino-3-cyclopropanecarboxamido-5-bromo-4-methylpyridine, p-toluenesulfonic acid monohydrate (200 mg) and Molecular Sieves 4A (500 mg), followed by heating under reflux with stirring for 3 hours. The reaction solution was brought to room temperature and filtered through Celite to remove insolubles. Chloroform (100 ml) and an aqueous solution (100 ml) of sodium hydrogen-carbonate were added to the filtrate and the obtained mixture was caused liquid--liquid separation. The aqueous phase was further extracted with chloroform (50 ml) twice. The organic phases were combined, dried over anhydrous magnesium sulfate and subjected to vacuum concentration. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate) to give 1.7 g of 2-cyclopropyl-3-(2-'-cyanobiphenyl-4-yl)methyl-6-bromo-7-methyl-3H-imidazo-[4,5-b]pyridine (yield 88%).

reactant | 2-(2'-cyanobiphenyl-4-yl)methylamino-3-cyclopropanecarboxamido-5-bromo-4-methylpyridine | 4.3 mmol, 2.0 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CNC1=NC=C(C(=C1NC(=O)C1CC1)C)Br | C24H21BrN4O
reactant | p-toluenesulfonic acid monohydrate | 200 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-cyclopropyl-3-(2-'-cyanobiphenyl-4-yl)methyl-6-bromo-7-methyl-3H-imidazo-[4,5-b]pyridine | 1.7 g, yield 88% | C1(CC1)C1=NC=2C(=NC=C(C2C)Br)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C24H19BrN4
